US05889161
1-Amino-3-nitro-1,2,4-triazole (1.3 g, 10 mmol) was dissolved in 10 mL of dry acetonitrile, cooled to 0° C. with stirring under argon, and treated with t-butyl hypochlorite (1.1 g, 10 mmol) over 10 minutes. The resulting solution was stirred for 24 h, at room temperature, concentrated in vacuo, and triturated with isopropyl alcohol (3 mL). The undissolved solid was collected by filtration to give 400 mg (30%) of 1,1'-azobis-(3-nitro-1,2,4-triazole). The identity of the product was confirmed using NMR spectroscopy and X-ray diffraction.

reactant | 1-Amino-3-nitro-1,2,4-triazole | 10 mmol, 1.3 g | NN1N=C(N=C1)[N+](=O)[O-] | C2H3N5O2
reactant | t-butyl hypochlorite | 10 mmol, 1.1 g | ClOC(C)(C)C | C4H9ClO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1,1'-azobis-(3-nitro-1,2,4-triazole) | 400 mg, 30% | N(=NN1N=C(N=C1)[N+](=O)[O-])N1N=C(N=C1)[N+](=O)[O-] | C4H2N10O4
